Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / Toradol / Actos / Dextromethorphan / Nsaids
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ yo F with DM2, HTN, chronic back pain s/p multiple 
surgeries, h/o narcotic abuse sent to ED by her PCP after 
presenting with recent h/o dizziness/syncope, feeling like she 
"is going to die". She reports episodes of lightheadedness 
intermittently over the last 3 weeks. She describes feeling like 
she is going to pass out precipitate by turning of head. She 
denies vertigo. Episodes are not associated with chest pain, 
SOB, palpitations. She has had urinary frequency and burning x 3 
days but no fevers, chills. Currently complains of ___ back 
pain (chronic).  Throughout history, she falls asleep without 
constant stimulation. Also frequently sobs and reports fear of 
being afraid, fear of dying.

In ER: (Triage Vitals: 98.9  78  175/92 16 100% RA). She was 
also noted to be orthostatic with SBP 145--> 114, HR 67->78). 
Meds Given: ciprofloxacin for UTI, oxycodone, lorazepam, 
ondansetron , Fluids given: 1L NS.  Placed on oxygen per her 
request as she reports waking up suddenly and gasping for 
breath.

PAIN SCALE: ___ location: back
_____________________________________________
REVIEW OF SYSTEMS:
CONSTITUTIONAL:        [x] All Normal
[ ] Fever  [ ] Chills   [ ] Sweats  [ ] Fatigue   [ ] Malaise   
[ ]Anorexia  [ ]Night sweats
[ ] _____ lbs.    weight  loss/gain     over _____ months

HEENT:          [] All Normal
[ ] Blurred vision   [ ] Blindness  [ ] Photophobia
[ ] Decreased acuity [ ] Dry mouth  [ ] Bleeding gums
[ ] Oral ulcers  [ ] Sore throat    [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ]Tinnitus [ ] Other:

RESPIRATORY:    [] All Normal
[ ] SOB     [x ] DOE    [ ] Can't walk 2 flights     [ ] Cough
[ ] Wheeze  [ ] Purulent sputum    [ ] Hemoptysis   [ ]Pleuritic 
pain 
[x ] Other: ? sleep apnea

CARDIAC:        [x]  All Normal
[ ] Angina    [ ] Palpitations   [ ] Edema   [ ] PND
[ ] Orthopnea    [ ] Chest Pain [ ] Other:

GI:             [x] All Normal
[ ] Blood in stool     [ ] Hematemesis     [ ] Odynophagia
[ ] Dysphagia:   [ ] Solids    [ ] Liquids
[ ] Anorexia    [] Nausea  [] Vomiting   [ ] Reflux
[ ] Diarrhea    [ ] Constipation  []  Abd pain  [ ] Other:

GU:             [] All Normal
[x ] Dysuria      [x ] Frequency    [ ] Hematuria  []Discharge 
[]Menorrhagia  

SKIN:           [x] All Normal
[ ] Rash        [ ] Pruritus

MS:             [x] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain

NEURO:          [] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [x ] Dizziness/Lightheaded [ 
]Vertigo [ ] Headache

ENDOCRINE:     [x] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Temp subjectivity

HEME/LYMPH:    [x] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy

PSYCH:         [] All Normal
[x ] Mood change - very anxious       []Suicidal Ideation  [ ] 
Other:  

[x]all other systems negative except as noted above 

 
Past Medical History:
- Hypertension  
- Type II Diabetes  
- Depression/Anxiety  
- Peripheral Neuropathy  
- Gastric banding (laparoscopic adjustable band, ___,  
complicated by high-grade small bowel obstruction (___)  
- Chronic lower back pain, multiple back surgeries:  
- Total laminectomy L4/L5, laminotomy of L3 and S1, fusion  
L4-S1, placement of EBI bone stimulator ___ Removal of EBI 
 
bone stimulator (___)  
- Image intensification guided facet blocks at L4-5 and L5-S1  
(___)  
- Partial vertebrectomy of L4 and L5, Fusion L4-S1, Anterior  
body spacers x 2 (___)  
- Revision laminectomies of L4 and L5; Fusion L4-S1 (___)  
- Fusion exploration L4-S1; Instrumentation removal L4-S1  
(___)  
- ? pump/stimulator implanted at ___ (___)
- Knee surgery ___  
- Cholecystectomy ___  
- Adenocarcinoma of lung s/p wedge excision (___) and complete  

right lower lobectomy for local recurrence (___)  
- Polysubstance abuse (Per the record, the patient has abused  
Equanil,Darvon, codeine, Percodan, Vicodin, and Valium, treated 
with  
suboxone in the past since ___ under the direction of Dr.  
___, had difficulties while inpatient for several  
surgeries, requiring psychiatric consultation for difficult pain 
management and agitation)  
 
Social History:
___
Family History:
no cardiac disease
 
Physical Exam:
T 96.0 P 60 BP 135/84 RR 18 O2Sat 100% 2L NC (100% RA in ED) Wt- 
212 lbs  
GENERAL:  emotionally labile, distraught  
Eyes: NC/AT, EOMI, no scleral icterus noted  
Ears/Nose/Mouth/Throat: MMM, no lesions noted in OP  
Neck: supple, no JVD appreciated  
Respiratory: Lungs with decreased BS diffusely, occassional 
wheeze 
Cardiovascular: Reg, S1S2, no M/R/G noted  
Gastrointestinal: soft, NT/ND, normoactive bowel sounds, no 
masses or organomegaly noted.  
Skin: no rashes or lesions noted. No pressure ulcer  
Extremities: No C/C/E bilaterally, 2+ radial, DP and ___ pulses 
b/l.  
Lymphatics/Heme/Immun: No cervical, supraclavicular 
lymphadenopathy noted.  
Neurologic:  
-mental status: Oriented but sleepy. Able to relate history 
without difficulty when awake, but frequently falls asleep
-cranial nerves: II-XII intact  
-motor: normal bulk, No abnormal movements noted.    
  
No foley catheter/tracheostomy/PEG/ventilator support/chest  
tube/colostomy  
Psychiatric:  very labile

ACCESS: [x]PIV

Discharge Physical exam:
vPHYSICAL EXAM:  
VS:  Tm Afebrile  Tc   HR ___   BP 100-140s/50s-70s   RR 16  
  SaO2 93-98% RA     I/O
GENERAL: [x] NAD [] Uncomfortable 
Eyes: [] anicteric [] PERRL
ENT: [x] MMM [] Oropharynx clear [] Hard of hearing 
NECK: [] No LAD [] JVP:  
___: [x] RRR [x] nl s1 s2 [] no MRG [x] no edema. ___ early 
peaking systolic ejection murmur
LUNGS: [x] No rales [x] No wheeze [x] comfortable 
ABDOMEN: [x] Soft [x]nontender []bowel sounds present []No 
hepatosplenomegaly 
SKIN: []No rashes []warm []dry [] decubitus ulcers:   
LYMPH: [] No cervical LAD []No axillary LAD [] No inguinal LAD  
NEURO: [x] Oriented x3 [x] Fluent speech
Psych: [x] Alert [x] Calm [x] Mood/Affect: appropriate

 
Pertinent Results:
Admission Labs:
___ 10:30PM   WBC-7.9 RBC-4.28# HGB-12.2# HCT-36.4# MCV-85 
MCH-28.5 MCHC-33.4 RDW-15.1
___ 10:30PM   NEUTS-73.0* LYMPHS-16.4* MONOS-4.1 EOS-6.2* 
BASOS-0.4
___ 10:30PM   PLT COUNT-198
___ 10:30PM   GLUCOSE-205* UREA N-20 CREAT-1.4* SODIUM-141 
POTASSIUM-4.8 CHLORIDE-104 TOTAL CO2-28 ANION GAP-14
___ 10:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

___ 10:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:00PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-300 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-MOD
___ 10:00PM URINE  RBC-14* WBC-40* BACTERIA-MANY YEAST-NONE 
EPI-2

EKG: sinus rhythm @ 64, nml axis, nml intervals, no ischemic 
changes

Notable studies:
TTE:There is mild symmetric left ventricular hypertrophy with 
normal cavity size. Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. Left 
ventricular systolic function is hyperdynamic (EF>75%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. There is no aortic valve stenosis. No 
aortic regurgitation is seen. Trivial mitral regurgitation is 
seen. [Due to acoustic shadowing, the severity of mitral 
regurgitation may be significantly UNDERestimated.] There is no 
pericardial effusion. 

IMPRESSION: Grossly preserved biventricular systolic function. 
Limited study.

Discharge Labs:
___ 06:05AM BLOOD WBC-5.9 RBC-3.73* Hgb-11.3* Hct-34.0* 
MCV-91 MCH-30.4 MCHC-33.3 RDW-15.5 Plt ___
___ 06:05AM BLOOD Glucose-215* UreaN-29* Creat-1.5* Na-140 
K-4.0 Cl-102 HCO3-31 AnGap-11
___ 05:30PM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:00AM BLOOD TSH-1.7

Studies Pending at Discharge: 
Carotid ultrasound

 
Brief Hospital Course:
___ yo F with type 2 diabetes mellitus, hypertension, chronic 
back pain, depression/anxiety admitted with pre-syncope 

#Pre-syncope/autonomic neuropathy:
The patient ruled out for myocardial infarction and it was not 
felt that the patient's symptoms were related to cardiac 
ischemia or structural cardiac abnormality as echocardiogram was 
unremarkable. The patient was seen by Neurology and felt to most 
probably have autonomic neuropathy related to her diabetes. The 
patient will be evaluated by Dr. ___ for ___ table 
testing and further workup for autonomic neuropathy. 
Additionally, the patient's lisinopril was discontinued and the 
patient was without symptoms of orthostasis prior to discharge. 
She also did well with physical therapy prior to discharge.

#Urinary tract infection:
Patient was treated with ciprofloxacin for 7 days for 
enterobacter urinary tract infection.

#Type 2 DM uncontrolled, with complications of neuropathy and 
nephropathy:
Patient was maintained on her home NPH and humalog sliding 
scale.
 
#Hypertension/Chronic renal failure, stage III: 
As above ACE inhbitor was held for symptoms of orthostasis. 
Given her chronic renal failure most probably related to 
diabetes, ACE inhibitor should be restarted at a lower dose if 
tolerated once the patient is stable without significant 
pre-syncopal symptoms. This can be followed by her PCP.

#Chronic obstructive lung disease:
Patient was continued on her home inhaled fluticasone.

#Depression/Anxiety with Panic attack:
Patient was seen by Psychiatry and managed with seroquel for 
episodes of panic. The patient had stopped her Cymbalta 3 weeks 
prior to admit because she was going to start a study drug 
through the ___, but she was told 
that she is not eligible due to her neuropathy. Therefore, she 
was discharged to restart her Cymbalta gradually back to her 
previous Cymbalta dose of 60mg po daily over the next 3 weeks. 
She was instructed to follow up with her PCP and potentially try 
to obtain a Psychiatrist for management of her depression and 
anxiety if her symptoms do not improve once back on her 
Cymbalta.

#Chronic back pain: 
Patient was continued on her home percocet and lyrica. 

#Hyperlipidemia: Pt was continued on her statin

#CODE: FULL

#Disposition: Patient was discharged home with services and will 
follow up with her PCP regarding her orthostasis, presyncope, 
hypertension, diabetes, and anxiety. She will also follow up 
with Dr. ___ for further management of her likely 
autonomic neuropathy.
 
Medications on Admission:
lyrica 200mg tid
nystatin topical cream
omega-3 fatty acids 1000mg bid
lorazepam 1mg prn
lisinopril 20mg daily
simvastatin 20mg daily
flovent 2 puffs bid
fluticasone nasal spray
trazodone 150mg qhs
excedrin migraine 250mg-250mg-65mg
centrum
Vit D 50,000 units weekly
NPH 10- 14 units BID
regular insulin SS
 
Discharge Medications:
1. ergocalciferol (vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO 1X/WEEK (MO).  
2. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
4. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for 
wheezing, SOB.  
5. quetiapine 25 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day) as needed for anxiety.
Disp:*15 Tablet(s)* Refills:*0*
6. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).  
7. pregabalin 200 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
8. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
9. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. trazodone 50 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime) as needed for insomnia.  
11. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 2 days.
Disp:*5 Tablet(s)* Refills:*0*
12. nystatin 100,000 unit/g Cream Sig: One (1) application 
Topical twice a day as needed for rash.  
13. Changes to Medications
NEW MEDICATIONS:
Cymbalta 60mg po daily (please take 20mg/day for one week then 
40mg/day for one week, then 60mg/day thereafter)

PLEASE STOP TAKING THE FOLLOWING MEDICATIONS:
Lisinopril
14. NPH insulin human recomb 100 unit/mL (3 mL) Insulin Pen Sig: 
Fourteen (14) units Subcutaneous twice a day.  
15. insulin regular human 100 unit/mL Solution Sig: as directed 
units Injection with meals: Please take as directed based on 
your home sliding scale.  
16. Cymbalta 20 mg Capsule, Delayed Release(E.C.) Sig: Three (3) 
Capsule, Delayed Release(E.C.) PO once a day: Please start with 
1 tab daily for one week, then 2 tabs daily for one week, then 3 
tabs daily. If you have side effects while starting this 
medication please call your doctor.
Disp:*90 Capsule, Delayed Release(E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Autonomic neuropathy
Pre-syncope
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with symptoms of dizziness and lightheadedness 
and felt to have autonomic neuropathy. You were seen by the 
Neurology service who recommended that you have an outpatient 
___ testing with Dr. ___ after discharge. 

Your blood pressure medications were also changed (your 
lisinopril was held) and your symptoms improved.

You should follow up with your PCP and ___ as listed 
below. 

Because of your neuropathy, you will not be started on your 
___ Pain Center study drug. Therefore, you should restart 
your Cymbalta gradulally as directed.

If you begin to have recurrent symptoms, please try to increase 
your fluid intake and call your doctor.
 
Followup Instructions:
___